US08067445B2
Step 4: 2-(2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-2-methyl-propionic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: 2-(3-bromo-4-methoxy-phenyl)-2-methyl-propionic acid ethyl ester and 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzaldehyde.

reactant | 2-(3-bromo-4-methoxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C1=CC(=C(C=C1)OC)Br)=O | C13H17BrO3
reactant | 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzaldehyde | CC1(OB(OC1(C)C)C1=C(C=O)C=C(C=C1)C(F)(F)F)C | C14H16BF3O3
product | 2-(2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C21H21F3O4
